US08563541B2
Di-tert-butyldicarbonate (10.0 g, 0.0458 mol) was added slowly in portions to a solution of 3-methylpyridin-4-amine (4.13 g, 0.0382 mol) dissolved in tert-butyl alcohol (60 mL). Vigorous bubbling was observed during the addition. After stirring at room temperature overnight, the solvent was removed in vacuo to provide an oily residue which was partitioned between NaHCO3/water and ethyl acetate. The mixture was extracted 3× with ethyl acetate and the combined extracts were washed with brine, dried over MgSO4, filtered, and concentrated. The crude product was purified by chromatography on silica gel eluting with 75% ethyl acetate/hexane to 100% ethyl acetate to provide tert-butyl (3-methylpyridin-4-yl)carbamate as a white solid (7.90 g, 99%). 1H NMR (DMSO-d6) δ 8.80 (bs, 1H), 8.25 (m, 2H), 7.65 (d, 1H), 2.19 (s, 3H), 1.49 (s, 9H). LC/MS: 209 (M+H)+.

reactant | Di-tert-butyldicarbonate | 0.0458 mol, 10.0 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 3-methylpyridin-4-amine | 0.0382 mol, 4.13 g | CC=1C=NC=CC1N | C6H8N2
solvent | tert-butyl alcohol | 60 mL | C(C)(C)(C)O | C4H10O
product | tert-butyl (3-methylpyridin-4-yl)carbamate | 7.90 g, 99% | CC=1C=NC=CC1NC(OC(C)(C)C)=O | C11H16N2O2
